US06821984B2
7-(2-methyl-4-methoxyphenyl)-2-methyl-3-(1-propylbutoxy)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridine hydrochloride
Example 12c was prepared according to the procedure described in Example 12a, except that 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-1,2,4,5,6,7-hexahydropyrazolo[3,4-b]pyridin-3-one was replaced by 7-(4-methoxy-2-methyl-phenyl)-2-methyl-1,2,4,5,6,7-hexahydro-pyrazolo[3,4-b]pyridin-3-one.

reactant | 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-1,2,4,5,6,7-hexahydropyrazolo[3,4-b]pyridin-3-one | ClC1=C(C(=CC(=C1)C)C)N1C2=C(CCC1)C(N(N2)C)=O | C15H18ClN3O
reactant | 7-(4-methoxy-2-methyl-phenyl)-2-methyl-1,2,4,5,6,7-hexahydro-pyrazolo[3,4-b]pyridin-3-one | COC1=CC(=C(C=C1)N1C2=C(CCC1)C(N(N2)C)=O)C | C15H19N3O2
product | 7-(2-methyl-4-methoxyphenyl)-2-methyl-3-(1-propylbutoxy)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridine hydrochloride | Cl.CC1=C(C=CC(=C1)OC)N1C=2C(CCC1)=C(N(N2)C)OC(CCC)CCC | InChI=1S/C22H33N3O2.ClH/c1-6-9-17(10-7-2)27-22-19-11-8-14-25(21(19)23-24(22)4)20-13-12-18(26-5)15-16(20)3;/h12-13,15,17H,6-11,14H2,1-5H3;1H
